US05416236
Synthesis of methyl 5-ethylsulfonylamino-2-fluorocarbanilate
22.1 g (229 mmol) of methyl chloroformate was added dropwise to a mixture of 50.0 g (229 mmol) of N-(3-amino-4-fluorophenyl)ethanesulfonamide, 18.1 g (229 mmol) of pyridine and 500 ml of dichloromethane at a temperature of not higher than 5° C. Thereafter the temperature was raised to room temperature and the reaction was continued for 5 hours. After the dichloromethane layer was separated out by adding water to the resultant mixture, the dichloromethane layer was washed with saturated saline solution and dried over anhydrous sodium sulfate. Thereafter the dichloromethane was distilled off to obtain the crude product (crystals). The crude product was washed with diisopropyl ether, thereby obtaining 61.0 g of the objective product (yield: 96%) in the form of light brown crystals.

reactant | methyl chloroformate | 229 mmol, 22.1 g | ClC(=O)OC | C2H3ClO2
reactant | N-(3-amino-4-fluorophenyl)ethanesulfonamide | 229 mmol, 50.0 g | NC=1C=C(C=CC1F)NS(=O)(=O)CC | C8H11FN2O2S
reactant | pyridine | 229 mmol, 18.1 g | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | 500 ml | ClCCl | CH2Cl2
product | methyl 5-ethylsulfonylamino-2-fluorocarbanilate | 61.0 g, yield: 96% | C(C)S(=O)(=O)NC=1C=CC(=C(NC(OC)=O)C1)F | C10H13FN2O4S
